US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-benzenesulfonyl)-piperidine-1-carboxylic Acid Octylamide
4-{[4-(2-Aminoethyl)phenyl]sulfonyl}-N-octyl-1-piperidinecarboxamide (1.53 g, 3.612 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenylsilane (1.39 g, 3.431 mmol) according to Procedure G to give the title compound (eluant: 20: chloroform-ethanol) (0.500 g, 0.604 mmol).

reactant | 4-{[4-(2-Aminoethyl)phenyl]sulfonyl}-N-octyl-1-piperidinecarboxamide | 3.612 mmol, 1.53 g | NCCC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C(=O)NCCCCCCCC | C22H37N3O3S
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenylsilane | 3.431 mmol, 1.39 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-benzenesulfonyl)-piperidine-1-carboxylic Acid Octylamide | 0.604 mmol, 0.500 g | C(CCCCCCC)NC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C31H47N3O6S
